US06331556B2
4-(tert-Butyldimethylsilanyloxy)-1-(7-methoxybenzofuran-2-yl)-butan-1-ol
A suspension of dried magnesium turnings (0.42 g) in anhydrous tetrahydrofuran (20 ml) was treated with 2 ml of (3-Bromopropoxy)-tert-butyldimethylsilane (4.4 g) in anhydrous tetrahydrofuran (10 ml) at room temperature under a dry nitrogen atmosphere. Initiation was achieved by the addition of catalytic iodine and warming to 80° C. The remaining solution (8 ml) was then added carefully. The reaction was cooled to −5° C. and a solution of 7-methoxybenzofuran-2-carbaldehyde (3 g) in anhydrous tetrahydrofuran (20 ml) was added carefully. After stirring at ambient temperature overnight the solvent was removed in vacuo. The residue was partitioned between ethyl acetate (100 ml) and saturated aqueous ammonium chloride solution (100 ml). The organic extract was dried over magnesium sulphate, filtered and preadsorbed onto silica. Purification by column chromatography on silica eluting with 10% ethyl acetate in hexane afforded the title compound as a yellow oil (4.88 g).

reactant | magnesium | 0.42 g | [Mg] | Mg
reactant | (3-Bromopropoxy)-tert-butyldimethylsilane | 2 ml, 4.4 g | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | iodine | II | I2
reactant | 7-methoxybenzofuran-2-carbaldehyde | 3 g | COC1=CC=CC=2C=C(OC21)C=O | C10H8O3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(tert-Butyldimethylsilanyloxy)-1-(7-methoxybenzofuran-2-yl)-butan-1-ol | 4.88 g | [Si](C)(C)(C(C)(C)C)OCCCC(O)C=1OC2=C(C1)C=CC=C2OC | C19H30O4Si
